US05250678
To a stirred solution of tris(6-tert-butyldimethylsilyloxynaphth-2-yl)bismuthine (100 mg, 0.215 mmol) in CH2Cl2 (4 mL) was added peracetic acid (0.05 mL, 0.238 mmol, 32 wt % in dilute acetic acid). To this stirred solution was added THF (1 mL), 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg, 0.126 mmol) and Cu(OAc)2 (catalytic amount). The flask was fitted with a reflux condenser and the mixture was heated to 40° C. for 2 hours. The mixture was allowed to cool and was stirred 72 hours. The reaction was quenched with saturated aqueous NaHCO3 and extracted 4× with CH2Cl2. The organic extracts were combined and dried over anhydrous Na2SO4. The mixture was filtered and concentrated in vacuo. The products were isolated by preparative TLC on silica gel (eluted with 2:1 hexanes/acetone) to afford 47 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(6'"-tert-butyl-dimethylsilyloxynaphth-2-yloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (Rf =0.56). (1H NMR and mass spectral analysis were consistent with the desired structure).

reactant | tris(6-tert-butyldimethylsilyloxynaphth-2-yl)bismuthine | 0.215 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)[Bi](C1=CC2=CC=C(C=C2C=C1)O[Si](C)(C)C(C)(C)C)C1=CC2=CC=C(C=C2C=C1)O[Si](C)(C)C(C)(C)C
reactant | peracetic acid | 0.238 mmol, 0.05 mL | C(C)(=O)OO | C2H4O3
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(6'"-tert-butyl-dimethylsilyloxynaphth-2-yloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 47 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC1=CC=C(C=C1C=C2)O[Si](C)(C)C(C)(C)C)OC)C)C)O)=O | C59H89NO13Si
